US06528525B1
2-Butyl-3-[4-[2-(3′-hydroxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-213 compound)
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(3′-hydroxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionate (350 mg), which is the product of Example 33, was reacted with aqueous sodium hydroxide solution (1N, 2.85 ml) and the reaction mixture was treated to give the title compound (290 mg) as a white powder.

reactant | ethyl 2-butyl-3-[4-[2-(3′-hydroxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 350 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)O | C30H35NO5
reactant | sodium hydroxide | 1N, 2.85 ml | [OH-].[Na+]
product | 2-Butyl-3-[4-[2-(3′-hydroxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid | 290 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)O | C28H31NO5
